US04900854
Bromodiphenylborane was dissolved in the amount of 7.4 milliliters (40 millimoles) in 40 milliliters of tetrahydrofuran in the following manner: The bromodiphenylborane was cooled to -78° C. and tetrahydrofuran was added. On warming, a reaction took place producing a solid tetrahydrofuran/bromodiphenylborane adduct. This product dissolves as the solution warms further toward room temperature, with stirring, yielding a clear solution. Thereafter, 56.3 milliliters of 0.71 molar dibutylmagnesium in hexane was added after first cooling the diphenylbromoborate solution to -78° C. in a dry ice/acetone bath. The reaction mixture was allowed to warm slowly to room temperature with stirring. Stirring was continued for one hour. The solvent was evaporated by distillation under reduced pressure and the residue was redissolved in 25 milliliters of tetrahydrofuran. Thereafter, 20 milliliters of 1,4-dioxane were added and the mixture was stirred for over 30 minutes. Substantial amounts of a white precipitate had formed after this time. The mixture was decanted onto a "fine" fritted glass filter. The filtrate was collected by drawing it through the frit with a partial vacuum.

reactant | Bromodiphenylborane | BrB(C1=CC=CC=C1)C1=CC=CC=C1 | C12H10BBr
reactant | tetrahydrofuran | 40 milliliters | O1CCCC1 | C4H8O
product | tetrahydrofuran bromodiphenylborane | O1CCCC1.BrB(C1=CC=CC=C1)C1=CC=CC=C1 | InChI=1S/C12H10BBr.C4H8O/c14-13(11-7-3-1-4-8-11)12-9-5-2-6-10-12;1-2-4-5-3-1/h1-10H;1-4H2
